US08580831B2
5-(3-Dimethylamino-4-fluoro-phenyl)-oxazole-4-carboxylic acid {2-[4-(1,1-difluoro-ethyl)-oxazol-2-ylmethyl]-2H-[1,2,3]triazol-4-yl}-amide
Following general procedure A, starting from 2-[4-(1,1-difluoro-ethyl)-oxazol-2-ylmethyl]-2H-[1,2,3]triazol-4-ylamine and 5-(3-(dimethylamino)-4-fluorophenyl)oxazole-4-carboxylic acid.

reactant | 2-[4-(1,1-difluoro-ethyl)-oxazol-2-ylmethyl]-2H-[1,2,3]triazol-4-ylamine | FC(C)(F)C=1N=C(OC1)CN1N=CC(=N1)N | C8H9F2N5O
reactant | 5-(3-(dimethylamino)-4-fluorophenyl)oxazole-4-carboxylic acid | CN(C=1C=C(C=CC1F)C1=C(N=CO1)C(=O)O)C | C12H11FN2O3
product | 5-(3-Dimethylamino-4-fluoro-phenyl)-oxazole-4-carboxylic acid {2-[4-(1,1-difluoro-ethyl)-oxazol-2-ylmethyl]-2H-[1,2,3]triazol-4-yl}-amide | FC(C)(F)C=1N=C(OC1)CN1N=CC(=N1)NC(=O)C=1N=COC1C1=CC(=C(C=C1)F)N(C)C | C20H18F3N7O3
